US07723347B2
N-(2-Chloro-4-nitrophenyl)-1H-pyrrolo[2,3-b]pyridine-4-amine
Variant B: A mixture of 200 mg (1.31 mmol) of 4-chloro-1H-pyrrolo[2,3-b]pyridine, 678 mg (3.93 mmol) of 2-chloro-4-nitroaniline, 60 mg (0.07 mmol) of tris(dibenzylideneacetone)dipalladium, 62 mg (0.13 mmol) of dicyclohexyl(2′,4′,6′-triisopropylbiphenyl-2-yl)phosphine and 399 mg (2.88 mmol) of potassium carbonate and 2.50 ml of degassed tert-butanol is stirred in a sealed pressure vessel at 100° C. for 3 h.

reactant | 4-chloro-1H-pyrrolo[2,3-b]pyridine | 1.31 mmol, 200 mg | ClC1=C2C(=NC=C1)NC=C2 | C7H5ClN2
reactant | 2-chloro-4-nitroaniline | 3.93 mmol, 678 mg | ClC1=C(N)C=CC(=C1)[N+](=O)[O-] | C6H5ClN2O2
reactant | dicyclohexyl(2′,4′,6′-triisopropylbiphenyl-2-yl)phosphine | 0.13 mmol, 62 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
reactant | potassium carbonate | 2.88 mmol, 399 mg | C([O-])([O-])=O.[K+].[K+]
catalyst | tris(dibenzylideneacetone)dipalladium | 0.07 mmol, 60 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | tert-butanol | 2.50 ml | C(C)(C)(C)O | C4H10O
product | N-(2-Chloro-4-nitrophenyl)-1H-pyrrolo[2,3-b]pyridine-4-amine | ClC1=C(C=CC(=C1)[N+](=O)[O-])NC=1C2=C(N=CC1)NC=C2 | C13H9ClN4O2
